US07745452B2
To a 0° C. mixture of diisopropylethylamine (34.36 mL, 197.25 mmol) and O,N-dimethyl-hydroxylamine hydrochloride (19.24 g, 197.25 mmol) in CHCl3 (300 mL) was added 2-amino-5-fluorobenzoic acid (25.50 g, 164.38 mmol) followed by EDC (31.51 g, 164.38 mmol). The reaction was stirred from 0° C. to ambient temperature over 2 h and then diluted with CH2Cl2 (100 mL), washed with saturated sodium bicarbonate solution (100 mL) and brine (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo. Purification by normal phase chromatography (3-8% MeOH/CH2Cl2) yielded 2-amino-5-fluoro-N-methoxy-N-methylbenzamide as a yellow oil. 1H NMR (CDCl3, 400 MHz) 7.12 (m, 1H, ArH); 6.93 (m, 1H, ArH); 6.65 (m, 1H, ArH); 3.63 (s, 3H, CH3); 3.35 (s, 3H, CH3); MS (Electrospray): m/z 199.1 (M+H).

reactant | diisopropylethylamine | 197.25 mmol, 34.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 197.25 mmol, 19.24 g | Cl.CONC
reactant | 2-amino-5-fluorobenzoic acid | 164.38 mmol, 25.50 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | EDC | 164.38 mmol, 31.51 g
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-5-fluoro-N-methoxy-N-methylbenzamide | NC1=C(C(=O)N(C)OC)C=C(C=C1)F | C9H11FN2O2
